US07087629B2
3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-3-methylisoxazol-5-ylaminomethyl)oxazolidin-2-one
Sodium hydride (60% in oil, 72 mg, 1.8 mM) was suspended in dry N,N-dimethylformamide (3 ml), cooled to 0° under nitrogen, and a solution of 5-(t-butoxycarbonylamino)-3-methylisoxazole (356 mg, 1.8 mM) in N,N-dimethylformamide (3 ml) added. After stirring for 10 minutes, a solution of 3-(4(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-methanesulfonyloxymethyloxazolidin-2-one (516 mg, 1.5 mM) in N,N-dimethylformamide (3 ml) was added, and the mixture heated to 40° for 5 hours. After cooling, the mixture was poured into water (50 ml), extracted with dichloromethane (4×20 ml). The organic phase was dried (magnesium sulfate), evaporated and crude product purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient from 50% to 75% ethyl acetate in isohexane. Relevant fractions were combined to give the desired product (420 mg).

reactant | Sodium hydride | 1.8 mM, 72 mg | [H-].[Na+]
reactant | 5-(t-butoxycarbonylamino)-3-methylisoxazole | 1.8 mM, 356 mg | C(C)(C)(C)OC(=O)NC1=CC(=NO1)C | C9H14N2O3
reactant | 3-(4(1-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-methanesulfonyloxymethyloxazolidin-2-one | 1.5 mM, 516 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F)C | C22H26F2N2O8S
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-3-methylisoxazol-5-ylaminomethyl)oxazolidin-2-one | 420 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=CC(=NO1)C)=O)F)C | C30H36F2N4O8
